US09359362B2
(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-2-sulfonamide
Under an atmosphere of argon, abs. dioxane (5 ml) was stirred with molecular sieve (4 Å, 30 mg) for 30 min. (7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidine-2-sulfonyl chloride (63%, 60 mg, 75 μmol) was added and the solution was cooled to 7° C. Dry ammonia gas was then introduced for 15 min, and the mixture was then cooled to 0° C. Triethylamine (11 μl, 75 μmol, 1 eq.) was added, and the reaction was then stirred for 12 h, during which time the mixture gradually warmed to RT. The solvent was then distilled off under reduced pressure, and the residue was purified by preparative HPLC (Reprosil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (33 mg, 90% of theory).

reactant | (7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidine-2-sulfonyl chloride | 75 μmol, 60 mg | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)S(=O)(=O)Cl)C2=CC(=CC=C2)C(F)(F)F)C | C21H12ClF3N6O2S
reactant | ammonia | N | H3N
reactant | Triethylamine | 75 μmol, 11 μl, 1 eq. | C(C)N(CC)CC | C6H15N
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | (7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-2-sulfonamide | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)S(=O)(=O)N)C2=CC(=CC=C2)C(F)(F)F)C | C21H14F3N7O2S
